US06005103
3-[1-[Cyclopentylthio]-2-cyclopropylethyl]-4-hydroxy-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), cyclopropylmethylcarboxaldehyde (0.892 g, 10.62 mmol), cyclopentylthiol (1.43 mL, 13.8 mmol), piperidine (0.5 mL), acetic acid (0.5 mL). m.p.75-80° C.; 1H NMR (400 MHz, DMSO-d6) δ0.04 (m, 2H), 0.07 (m, 2H), 0.66 (m, 1H), 1.53 (m, 7H), 1.94 (m, 3H), 3.19 (m, 1H), 4.21 (dd, 1H), 6.71 (s, 1H), 7.54 (m, 3H), 7.76 (m, 2H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | cyclopentylthiol | 13.8 mmol, 1.43 mL | C1CCC(C1)S | C5H10S
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 3-[1-[Cyclopentylthio]-2-cyclopropylethyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCC1)SC(CC1CC1)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C21H24O3S
